US04066776
1-methyl-3-nitro-4-pyrazolecarboxylic acid
A solution was made of 350 ml. of water, 35 gm. of NaOH, and 32 gm. of 1-methyl-3-nitro-4-pyrazolecarbonitrile. The solution was refluxed for 18 hours, cooled in an ice bath, and then acidified to pH 2 with concentrated HCl. A solid precipitated, which was filtered, washed with cold water, and recrystallized from methanol-water. The yield was 32.5 gm. of 1-methyl-3-nitro-4-pyrazolecarboxylic acid, m.p. 185°-187° C.

reactant | NaOH | [OH-].[Na+]
reactant | 1-methyl-3-nitro-4-pyrazolecarbonitrile | CN1N=C(C(=C1)C#N)[N+](=O)[O-] | C5H4N4O2
reactant | HCl | Cl | ClH
reactant | water | O | H2O
product | 1-methyl-3-nitro-4-pyrazolecarboxylic acid | CN1N=C(C(=C1)C(=O)O)[N+](=O)[O-] | C5H5N3O4
